US07592347B2
4-(4-Bromophenyl)-2-methyl-oxazole (D37)
4-Bromophenacyl bromide (21.3 g) and acetamide (11.3 g) were heated together at 130° C. under argon. After 2.5 h the reaction mixture was allowed to cool, and partitioned between water (150 ml) and Et2O (150 ml). The organic phase was washed with aqueous NaOH (0.5N), aqueous HCl (0.5M) and saturated aqueous NaCl solution (100 ml of each), dried (MgSO4) and evaporated to give a brown solid which was recrystallised from hexanes to give the title compound (D37) as an orange solid (4.1 g). LCMS electrospray (+ve) 239 (MH+).

reactant | 4-Bromophenacyl bromide | 21.3 g | BrC1=CC=C(C(CBr)=O)C=C1 | C8H6Br2O
reactant | acetamide | 11.3 g | C(C)(=O)N | C2H5NO
product | 4-(4-Bromophenyl)-2-methyl-oxazole | BrC1=CC=C(C=C1)C=1N=C(OC1)C | C10H8BrNO
